US06992083B2
N-[7-(4-Fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-6-methyl-nicotinamide
From 6-methyl-nicotinic acid, HATU and N-diethylisopropylamine in THF, then treatment with 7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl-amine in dioxane and DMF. ES-MS m/e (%): 378 (M+H+, 100).

reactant | 6-methyl-nicotinic acid | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl-amine | FC1=CC=C(C=C1)C1=CC=C(C=2N=C(OC21)N)OC | C14H11FN2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[7-(4-Fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-6-methyl-nicotinamide | FC1=CC=C(C=C1)C1=CC=C(C=2N=C(OC21)NC(C2=CN=C(C=C2)C)=O)OC | C21H16FN3O3
